US04002755
In the next place, to a solution of 2.0 g of 2-hydrazino-4-phenyl-6-methoxyquinazoline in 100 ml of ethanol were added 3.5 g of ethyl orthoacetate and 0.5 ml of concentrated sulfuric acid. The resulting mixture was refluxed for 3 hours and then the solvent was removed under reduced pressure. To the residue was added ammonia water to basify, and the mixture was extracted with chloroform. The extract was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness in vacuo. To the residue was added ethanol and the crystallized product was collected by filtration, and dried to give 1-methyl-5-phenyl-7-methoxy-s-triazolo[4,3-a]quinazoline as slightly yellow needles, m.p. 251° - 252° C.

reactant | 2-hydrazino-4-phenyl-6-methoxyquinazoline | 2.0 g | N(N)C1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)OC | C15H14N4O
reactant | ethyl orthoacetate | 3.5 g | C(C)(OCC)([O-])[O-]
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-methyl-5-phenyl-7-methoxy-s-triazolo[4,3-a]quinazoline | CC1=NN=C2N1C1=CC=C(C=C1C(=N2)C2=CC=CC=C2)OC | C17H14N4O
